US05973148
6. Preparation of N-(2,4,6-Trichlorophenyl)-S,S-dimethylsulfilimine
A solution of 1.1 mL (15 mmol) of dimethyl sulfide in 170 mL of dichloromethane was cooled to -10° C. and 0.90 g (13 mmol) of chlorine was added through a sparge tube with cooling and stirring. Subsequently, 23.3 g (120 mmol) of 2,4,6-trichloroaniline and then 22 g (170 mmol) of quinoline were added with cooling and stirring. The resulting product was a mixture of the title compound and unreacted 2,4,6-trichloroaniline.

reactant | dimethyl sulfide | 15 mmol, 1.1 mL | CSC | C2H6S
reactant | chlorine | 13 mmol, 0.90 g | ClCl | Cl2
reactant | 2,4,6-trichloroaniline | 120 mmol, 23.3 g | ClC1=C(N)C(=CC(=C1)Cl)Cl | C6H4Cl3N
reactant | quinoline | 170 mmol, 22 g | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | dichloromethane | 170 mL | ClCCl | CH2Cl2
product | N-(2,4,6-Trichlorophenyl)-S,S-dimethylsulfilimine | ClC1=C(C(=CC(=C1)Cl)Cl)N=S(C)C | C8H8Cl3NS
